US08669361B2
To a 10 mL microwave vial was added 5-chloro-1-methyl-4-nitro-1H-pyrazole (150 mg, 0.93 mmol), 3-(tert-butoxycarbonylamino)phenylboronic acid (440 mg, 1.86 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (152 mg, 0.019 mmol), a 1:1 M solution of Na2CO3/KOAc (1 mL) and acetonitrile (4 mL). The mixture was irradiated to 130° C. with a microwave for 40 min and the mixture was cooled, concentrated and purified via flash chromatography, heptane/ethyl acetate 20% to 95% to afford a yellow oil. To a 50 mL round bottom flask was added the nitro compound (120 mg, 0.90 mmol), iron (156 mg, 2.8 mmol), ammonium chloride (200 mg, 3.7 mmol), ethanol (10 mL) and water (1.5 mL). The mixture was stirred for 1 h and the reaction was monitored by LCMS. Upon completion of the reaction, the mixture was filtered through a pad of Celite and was washed with ethyl acetate (30 mL) and a 10% aqueous solution of K3PO4 (30 mL). The organic layer was washed with water (30 mL), dried over Na2SO4 and the organic solvent was distilled off to yield tert-butyl 3-(4-amino-1-methyl-1H-pyrazol-5-yl)phenylcarbamate as a brown oil with a purity of >98% (120 mg, 45%) over two steps. ESIMS m/z=289.1 (M+1)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 0.93 mmol, 150 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 3-(tert-butoxycarbonylamino)phenylboronic acid | 1.86 mmol, 440 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)B(O)O | C11H16BNO4
reactant | Na2CO3 KOAc | 1 mL | C(=O)([O-])[O-].[Na+].[Na+].CC(=O)[O-].[K+]
reactant | ammonium chloride | 3.7 mmol, 200 mg | [Cl-].[NH4+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.019 mmol, 152 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | iron | 2.8 mmol, 156 mg | [Fe] | Fe
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | tert-butyl 3-(4-amino-1-methyl-1H-pyrazol-5-yl)phenylcarbamate | NC=1C=NN(C1C=1C=C(C=CC1)NC(OC(C)(C)C)=O)C | C15H20N4O2
